US08809339B2
methyl 3-(chlorocarbonyl)benzoate
Into a 250-mL round bottom flask, was placed a solution of 3-(methoxycarbonyl)benzoic acid (6.2 g, 34.44 mmol, 1.00 equiv) in dichloromethane (50 mL), oxalyl dichloride (8.74 g, 69.37 mmol, 2.00 equiv), and N,N-dimethylformamide (cat.). The resulting solution was stirred for 1 h at 40° C. in an oil bath. The resulting mixture was concentrated under vacuum. This resulted in 6.6 g (87%) of methyl 3-(chlorocarbonyl)benzoate as brown oil.

reactant | 3-(methoxycarbonyl)benzoic acid | 34.44 mmol, 6.2 g, 1.00 equiv | COC(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | oxalyl dichloride | 69.37 mmol, 8.74 g, 2.00 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | methyl 3-(chlorocarbonyl)benzoate | ClC(=O)C=1C=C(C(=O)OC)C=CC1 | C9H7ClO3
